### PR TITLE
[Merged by Bors] - feat(RingTheory): some base changes commute with integral closure

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Smooth/IntegralClosure.lean [hunk 1]
```diff
@@ -0,0 +1,186 @@
...
+    (IsLocalizedModule.map_units (S := .powers r.1) (φ r).toLinearMap) ?_
+  ext x
+  exact congr($(IsLocalizedModule.map_apply (.powers r.1)
+      ((Algebra.TensorProduct.map (Algebra.ofId S (Sᵣ r))
+        (AlgHom.id R (integralClosure R B))).toLinearMap)
+      (φ r).toLinearMap (toIntegralClosure R S B).toLinearMap (1 ⊗ₜ x)).1)
+
+attribute [local instance] MvPolynomial.algebraMvPolynomial in
+/-- Base changing to `MvPolynomial σ R` preserves integral closure. -/
+lemma TensorProduct.toIntegralClosure_mvPolynomial_bijective {σ : Type*} :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Smooth/IntegralClosure.lean:129]: I suppose this is a step towards the general fact for smooth algebras? Once we have that, this could be private, right? Do you want to record that as a todo in a comment here?

File: Mathlib/RingTheory/Smooth/IntegralClosure.lean [hunk 2]
```diff
@@ -0,0 +1,186 @@
...
+      (Algebra.TensorProduct.map (AlgHom.id R (MvPolynomial σ R)) (integralClosure R B).val) =
+      (MvPolynomial.mapAlgHom (integralClosure R B).val).comp
+      MvPolynomial.scalarRTensorAlgEquiv.toAlgHom := by
+    ext <;> simp [e₀, -MvPolynomial.mapAlgHom_apply, MvPolynomial.mapAlgHom, MvPolynomial.coeff_map,
+      MvPolynomial.scalarRTensorAlgEquiv]
+  exact congr($this y)
+
+attribute [local instance] Algebra.TensorProduct.rightAlgebra in
+/-- Localization preserves integral closure. -/
+lemma TensorProduct.toIntegralClosure_bijective_of_isLocalization
```
Comment (jcommelin) [inline Mathlib/RingTheory/Smooth/IntegralClosure.lean:161]: Idem dito

File: Mathlib/RingTheory/Smooth/IntegralClosure.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Smooth/IntegralClosure.lean:129]: Yes but general mvpolynomials are not finitely generated hence not smooth so this will not be fully covered.

File: Mathlib/RingTheory/Smooth/IntegralClosure.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/Smooth/IntegralClosure.lean:161]: Similarly general localizations are also not finitely generated hence not smooth (in the usual sense). At least I haven't been able to generalize the result to essentially of finite type algebras
